data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3122,3514,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][C:8](=[O:9])[c:10]1[nH+:11][n-:12][c:13](=[O:14])[o:15]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[N:12]2[NH:11][C:10]1([C:8]([CH3:7])=[O:9])[O:15][C:13]2=[O:14],water,298.15,31.643189593569204,12.351625867146886
4133,4734,[CH3:10][c-:11]1[nH+:12][c:13](-[c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[o:20][c:21]1=[O:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:11]2([CH3:10])[NH:12][C:13]1([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[O:20][C:21]2=[O:22],water,298.15,22.79986740310893,-1.476166048618432
4557,5197,[CH3:9][O:10][C:11](=[O:12])[C:13](=[NH+:14][C-:15]([C:16]#[N:17])[C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:15]([C:16]#[N:17])([C:18]([CH3:19])=[O:20])[NH:14][C:13]1([C:11]([O:10][CH3:9])=[O:12])[C:21](=[O:22])[O:23][CH3:24],water,298.15,21.49069473966247,-16.367575401178932
3268,3694,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C:10](=[O:11])[C-:12]([N+:13]#[N:14])[C:15]([CH3:16])=[O:17]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:12]([C:10]([CH3:9])=[O:11])([C:15]([CH3:16])=[O:17])[N:13]=[N:14]2,water,298.15,31.0066613448281,6.020153379387332
2417,2685,[CH3:14][O:15][C:16](=[O:17])[C:18]([C:19]([CH3:20])=[O:21])=[N+:22]([CH3:23])[C-:24]([C:25](=[O:26])[O:27][CH3:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[CH3:1][C:2](=[O:3])[C:4]([C:5]#[N:6])=[C:7]([C:8]([CH3:9])=[O:10])[C:11]([CH3:12])=[O:13]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]([C:8]([CH3:9])=[O:10])([C:11]([CH3:12])=[O:13])[C:24]([C:25](=[O:26])[O:27][CH3:28])([c:29]2[cH:30][cH:31][cH:32][cH:33][cH:34]2)[N:22]([CH3:23])[C:18]1([C:16]([O:15][CH3:14])=[O:17])[C:19]([CH3:20])=[O:21],water,298.15,44.15692136083008,7.51626720696304
2544,2824,[CH3:15][O:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[O+:22][C-:23]([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1.[CH3:1][O:2][C:3]([O:4][CH3:5])=[C:6]([C:7]([F:8])([F:9])[F:10])[C:11]([F:12])([F:13])[F:14]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]([C:7]([F:8])([F:9])[F:10])([C:11]([F:12])([F:13])[F:14])[C:19]([C:17]([O:16][CH3:15])=[O:18])([C:20]#[N:21])[O:22][C:23]1([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1,water,298.15,40.54848568358396,7.204994309223863
2803,3114,[CH3:27][C:28](=[O:29])[C-:30]([N+:31]#[C:32][C:33]#[N:34])[c:35]1[cH:36][cH:37][cH:38][cH:39][cH:40]1.[F:1][C:2]([F:3])([F:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([C:15]([F:16])([F:17])[F:18])([C:19]([F:20])([F:21])[F:22])[CH2:23][CH2:24][CH2:25][CH2:26]1>>[F:1][C:2]([F:3])([F:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([C:15]([F:16])([F:17])[F:18])([C:19]([F:20])([F:21])[F:22])[CH2:23][CH2:24][CH2:25][CH2:26]1)[C:30]([C:28]([CH3:27])=[O:29])([c:35]1[cH:36][cH:37][cH:38][cH:39][cH:40]1)[N:31]=[C:32]2[C:33]#[N:34],water,298.15,16.46384816468909,-39.76343675315566
2597,2878,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([Cl:11])([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][NH:23][C:24](=[O:25])[C:26]#[N+:27][C-:28]([C:29]#[N:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([Cl:11])([c:12]3[cH:13][cH:14][cH:15][cH:16][cH:17]3)[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:26]([C:24]([NH:23][CH3:22])=[O:25])=[N:27][C:28]2([C:29]#[N:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1,water,298.15,12.044346111967153,-57.38166164550664
3817,4369,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[CH-:13][N+:14]([CH3:15])=[CH:16][C:17](=[O:18])[O:19][CH3:20]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[CH:13]([C:11]([NH:10][CH3:9])=[O:12])[N:14]([CH3:15])[CH:16]2[C:17](=[O:18])[O:19][CH3:20],water,298.15,10.642770948588812,-30.52169524086905
2869,3188,[CH3:25][NH:26][C:27](=[O:28])[C:29]([C:30]#[N:31])=[O+:32][C-:33]([c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1)[c:40]1[cH:41][cH:42][cH:43][cH:44][cH:45]1.[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]#[C:11][C:12]([C:13]([F:14])([F:15])[F:16])([C:17]([F:18])([F:19])[F:20])[CH2:21][CH2:22][CH2:23][CH2:24]1>>[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]2=[C:11]([C:12]([C:13]([F:14])([F:15])[F:16])([C:17]([F:18])([F:19])[F:20])[CH2:21][CH2:22][CH2:23][CH2:24]1)[C:29]([C:27]([NH:26][CH3:25])=[O:28])([C:30]#[N:31])[O:32][C:33]2([c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1)[c:40]1[cH:41][cH:42][cH:43][cH:44][cH:45]1,water,298.15,21.05134936578666,-34.58124748368009
